US05705502
0.8 g (2.41 mmol) of N-(3-trifluoromethyl-phenyl)-4-(N-oxido4-pyridyl)-2-pyrimidineamine is suspended in 40 ml of acetonitrile. 0.834 ml (6.65 mmol) of tri-methylsilyl cyanide and 0.611 ml (6.665 mmol) of dimethylcarbamoyl chloride are added and the reaction mixture is stirred for 12 hours at 60°. After concentration under reduced pressure, crystallisation is effected from tetrahydrofuran/diethyl ether. N-(3-trifluoromethyl-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine is obtained; m.p. 164°-166°, Rf =0.40 (n-hexane:ethyl acetate=1:1).

reactant | N-(3-trifluoromethyl-phenyl)-4-(N-oxido4-pyridyl)-2-pyrimidineamine | 2.41 mmol, 0.8 g | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=[N+](C=C1)[O-])(F)F | C16H11F3N4O
reactant | tri-methylsilyl cyanide | 6.65 mmol, 0.834 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamoyl chloride | 6.665 mmol, 0.611 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-(3-trifluoromethyl-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine | FC(C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C#N)(F)F | C17H10F3N5
